US06962914B2
A solution of N-{5-chloro-2-(4-methoxyphenyl)-3-[2-(methylsulfinyl)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-yl}-N-cyclopentylamine (118 mg, 0.24 mmol) in cyclopropylamine (5 mL) was heated at 45° C. in a sealed tube for 5 hours. The reaction mixture was cooled to room temperature and ethyl acetate was added to the reaction mixture. The organic phase was washed with water, brine and dried over magnesium sulfate. Filtration and concentration followed by chromatography (7:3 hexanes:ethyl acetate) gave N-{4-[5-chloro-7-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopropylamine (96 mg, 83%) as a yellow solid. 1H NMR (CDCl3) δ 8.10 (broad s, 1H), 8.00 (d, 1H), 7.55 (d, 2H), 6.98 (d, 2H), 6.33 (d, 1H), 6.09 (d, 1H), 5.98 (d, 1H), 5.68 (s, 1H), 3.93 (m, 1H), 3.86 (s, 3H), 2.84 (m, 1H), 2.10 (m, 2H), 1.78-1.65 (m, 6H), 0.90 (m, 2H), 0.63 (m, 2H). MS m/z 475 (M+1).

reactant | N-{5-chloro-2-(4-methoxyphenyl)-3-[2-(methylsulfinyl)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-yl}-N-cyclopentylamine | 0.24 mmol, 118 mg | ClC1=CC=2N(C(=C1)NC1CCCC1)N=C(C2C2=NC(=NC=C2)S(=O)C)C2=CC=C(C=C2)OC | C24H24ClN5O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | cyclopropylamine | 5 mL | C1(CC1)N | C3H7N
product | N-{4-[5-chloro-7-(cyclopentylamino)-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-N-cyclopropylamine | 96 mg, 83% | ClC1=CC=2N(C(=C1)NC1CCCC1)N=C(C2C2=NC(=NC=C2)NC2CC2)C2=CC=C(C=C2)OC | C26H27ClN6O
